US06800648B2
8-(Azidomethyl)-7,8-dihydro[1,4]dioxino[2,3-g][1,3]benzoxazol-2(3H)-one
Sodium azide (0.86 g, 13.2 mmole) was added to a solution of [(8R)-2-oxo-2,3,7,8-tetrahydro[1,4]dioxino[2,3-g][1,3]benzoxazol-8-yl]methyl 4-methylbenzene-sulfonate (5.0 g, 13 mmole) in dimethylformamide (250 mL). The solution was heated at 70° C. for 9 hours. The solvent was then removed in vacuum and replaced with 300 mL of methylene chloride. The mixture was washed with 300 mL portions of water and saturated brine, dried over magnesium sulfate, filtered and evaporated in vacuum to a yellow solid. The crude solid was column chromatographed on silica gel with 3% methanol in methylene chloride to yield the (S)-enantiomer of the title compound as a white solid (2.86 g, 86%).

reactant | Sodium azide | 13.2 mmole, 0.86 g | [N-]=[N+]=[N-].[Na+]
reactant | [(8R)-2-oxo-2,3,7,8-tetrahydro[1,4]dioxino[2,3-g][1,3]benzoxazol-8-yl]methyl 4-methylbenzene-sulfonate | 13 mmole, 5.0 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC2=C(C=CC=3NC(OC32)=O)OC1 | C17H15NO7S
solvent | dimethylformamide | 250 mL | CN(C=O)C | C3H7NO
product | 8-(Azidomethyl)-7,8-dihydro[1,4]dioxino[2,3-g][1,3]benzoxazol-2(3H)-one | 2.86 g, 86% | N(=[N+]=[N-])CC1OC2=C(C=CC=3NC(OC32)=O)OC1 | C10H8N4O4
